* Schematics Netlist *



D_D2         0 $N_0001 Dbreak 
D_D3         $N_0002 $N_0003 Dbreak 
D_D1         $N_0001 $N_0003 Dbreak 
R_R1         0 $N_0004  1k  
D_D4         0 $N_0002 Dbreak 
V_V1         $N_0001 $N_0002  
+SIN 0 310 50 0 0 0
L_L1         $N_0003 $N_0004  1m  
C_C1         0 $N_0004  10u  
