* Schematics Netlist *



D_D2         $N_0001 $N_0002 Dbreak 
R_R1         $N_0002 $N_0003  1  
D_D1         $N_0004 $N_0002 Dbreak 
D_D7         $N_0005 $N_0006 Dbreak 
R_R7         $N_0008 $N_0007  1k  
C_C1         0 $N_0003  22u  
D_D3         0 $N_0001 Dbreak 
D_D4         0 $N_0004 Dbreak 
C_C5         0 $N_0008  470p  
C_C6         0 $N_0009  100n  
D_D6         $N_0010 $N_0011 Dbreak 
C_C3         0 $N_0011  200n  
R_R4         $N_0013 $N_0012  25k  
D_D9         $N_0014 $N_0015 Dbreak 
X_U1         $N_0016 $N_0012 $N_0008 0 $N_0017 $N_0018 $N_0009 SG1844 
+ PARAMS: PERIOD=22.5u DEADTIME=2e-6
R_R9         $N_0017 $N_0020  5.1  
R_R5         0 $N_0013  2.5k  
D_D5         $N_0010 $N_0018 Dbreak 
R_R8         $N_0006 $N_0003  1k  
C_C7         $N_0006 $N_0003  1n  
M_M1         $N_0005 $N_0020 $N_0007 $N_0007 IRF840
R_R10         0 $N_0020  1k  
R_R11         0 $N_0007  2  
L_L1         $N_0003 $N_0005  0.083  
L_L3         $N_0015 0  270u  
R_R13         $N_0014 0  18  
L_L4         0 $N_0010  430u  
C_C10         $N_0014 0  24u  
C_C13         0 $N_0018  8.2u IC=1.551V 
L_L2         0 $N_0021  270u  
D_D8         $N_0021 $N_0022 Dbreak 
V_V1         $N_0004 $N_0001  
+SIN 0 310 50 0 0 0
R_R12         0 $N_0022  18  
R_R2         $N_0018 $N_0003  50k  
R_R3         $N_0011 $N_0013  6.3k  
C_C11         $N_0013 $N_0011  5n  
C_C4         $N_0023 $N_0016  1u  
R_R6         $N_0012 $N_0023  100k  
C_C9         0 $N_0022  24u  
Kn_K2         L_L1 L_L2 
+ L_L3 L_L4   0.9999
