* Schematics Netlist *



Kn_K1         L_L1 L_L2 
+ L_L3 L_L4   0.999
L_L1         $N_0001 $N_0002  0.59mH  
L_L2         0 $N_0003  0.1mH  
L_L3         $N_0004 0  0.1mH  
L_L4         0 $N_0005  250uH  
X_U4         $N_0006 0 Sw_tClose PARAMS: tClose=200m ttran=1u Rclosed=0.01
+  Ropen=1Meg
M_M1         $N_0002 $N_0008 $N_0007 $N_0007 IRF720
X_U1         $N_0010 $N_0009 $N_0011 0 $N_0012 $N_0013 $N_0014 SG1844 
+ PARAMS: PERIOD=15.3u DEADTIME=0.5u
D_D3         $N_0016 $N_0017 Dbreak-X1 
D_D1         $N_0018 $N_0017 Dbreak-X1 
D_D2         0 $N_0018 Dbreak-X1 
D_D5         $N_0005 $N_0013 Dbreak-X1 
D_D6         $N_0005 $N_0019 Dbreak-X1 
D_D7         $N_0002 $N_0020 Dbreak-X 
D_D8         $N_0003 $N_0006 Dbreak-X1 
D_D9         $N_0021 $N_0004 Dbreak-X1 
D_D4         0 $N_0016 Dbreak-X1 
R_R2         $N_0001 $N_0013  51k  
R_R3         $N_0019 $N_0022  5.1k  
R_R4         0 $N_0022  1k  
R_R5         $N_0022 $N_0009  270  
R_R6         $N_0009 $N_0023  100k  
R_R7         $N_0020 $N_0001  10k  
R_R8         $N_0012 $N_0008  15  
R_R9         $N_0011 $N_0007  5.1k  
R_R10         0 $N_0008  2k  
R_R11         0 $N_0007  1  
V_V1         $N_0018 $N_0016  
+SIN 0 115V 400 0 0 0
R_R1         $N_0001 $N_0017  1  
R_R12         0 $N_0006  4.3  
R_R13         $N_0021 0  4.3  
C_C1         0 $N_0001  22u  
C_C2         0 $N_0013  3u IC=4.454 
C_C9         0 $N_0006  0.62m  
C_C10         $N_0021 0  0.62m  
C_C3         $N_0019 $N_0022  1n  
C_C4         0 $N_0019  20p  
C_C5         $N_0023 $N_0010  10n  
C_C6         0 $N_0014  100n  
C_C7         0 $N_0011  10n  
C_C8         $N_0020 $N_0001  0.1n  
